US08283476B2
3-Benzyl-2-thiophen-2-ylmethyl-2H-indazole-6-carboxylic acid tert-butyl ester
The reaction was performed according to example 1 using 156.4 mg 3-chloro-4-phenylethynyl-benzoic acid tert-butyl ester, 164.7 mg thiophen-2-ylmethyl-hydrazine hydrochloride (2.0 equiv.) and 488.7 mg Cs2CO3 (3.0 equiv.) with a reaction time of 5 hours at 110° C. This afforded 72.8 mg (36%) of the title compound. 1H-NMR (DMSO-d6) δ 1.56 (s, 9H), 4.58 (s, 2H), 5.86 (s, 2H), 6.93 (dd, 1H, J=5.1, 3.5 Hz), 7.04 (dd, 1H, J=3.5, 1.0 Hz), 7.16 (d, 2H, J=7.4 Hz), 7.20-7.29 (m, 3H), 7.42 (dd, 1H, J=8.8, 1.2 Hz), 7.44 (dd, 1H, J=5.0, 1.2 Hz), 7.55 (dd, 1H, J=8.7, 0.7 Hz), 8.20 (s, 1H).

reactant | 3-chloro-4-phenylethynyl-benzoic acid tert-butyl ester | 156.4 mg | C(C)(C)(C)OC(C1=CC(=C(C=C1)C#CC1=CC=CC=C1)Cl)=O | C19H17ClO2
reactant | thiophen-2-ylmethyl-hydrazine hydrochloride | 164.7 mg, 2.0 equiv. | Cl.S1C(=CC=C1)CNN
reactant | Cs2CO3 | 488.7 mg, 3.0 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 3-Benzyl-2-thiophen-2-ylmethyl-2H-indazole-6-carboxylic acid tert-butyl ester | 72.8 mg, 36% | C(C)(C)(C)OC(=O)C=1C=CC2=C(N(N=C2C1)CC=1SC=CC1)CC1=CC=CC=C1 | C24H24N2O2S
